US07399759B2
2-(1,3-thiazol-2-yl)-4H-1,3-benzothiazin-4-one
1,3-Thiazole-2-carbonitrile (0.32 g, 2.9 mmol) and methyl thiosalicylate (0.98 g, 5.8 mmol) were dissolved in toluene (4 ml), and triethylamine (2.0 ml, 14.3 mmol) was added thereto. The reaction mixture was refluxed for 2 hrs. After cooling, the precipitates were collected by filtration and recrystallized from diisopropyl ether-ethanol to give the titled compound (0.51 g, 70%) as yellow crystals.

reactant | 1,3-Thiazole-2-carbonitrile | 2.9 mmol, 0.32 g | S1C(=NC=C1)C#N | C4H2N2S
reactant | methyl thiosalicylate | 5.8 mmol, 0.98 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | triethylamine | 14.3 mmol, 2.0 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(1,3-thiazol-2-yl)-4H-1,3-benzothiazin-4-one | 0.51 g, 70% | S1C(=NC=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | C11H6N2OS2
